US07951805B2
SYNTHESIS OF 4-(3,3-DIFLUORO-2-OXO-2,3-DIHYDROINDOL-1-YL)-PIPERIDINE-1-CARBOXYLIC ACID TERT-BUTYL ESTER
A mixture of 4-[(2-bromo-2,2-difluoroacetyl)-(2-iodophenyl)amino]-piperidine-1-carboxylic acid tert-butyl ester (1.670 g, 2.98 mmol) and copper (bronze, 0.480 g, 7.55 mmol) in DMSO (15 mL) was heated at 70° C. overnight. The reaction mixture was quenched with water at 0° C. and then extracted with ethyl acetate. The combined organic phase was washed with water and brine, dried over anhydrous Na2SO4 and concentrated. Purification of the residue by flash chromatography to afford the title compound in 93% yield (0.976 g). 1H NMR (300 MHz, CDCl3) δ 7.52-7.40 (m, 2H), 7.12 (t, J=7.5 Hz, 1H), 7.00 (t, J=8.1 Hz, 1H), 4.28-4.13 (m, 3H), 2.77 (t, J=12.9 Hz, 2H), 2.32-2.18 (m, 2H), 1.73 (d, J=12.9 Hz, 2H), 1.45 (s, 9H). 13C NMR (75 MHz, CDCl3) δ 165.5, 165.0, 164.6, 154.5, 142.6, 142.5, 142.4, 133.4, 125.0, 123.6, 120.6, 120.3, 120.0, 113.6, 110.9, 110.3, 107.0, 80.0, 77.5, 77.0, 76.6, 51.0, 43.2, 28.3, 27.9. MS (ES+) m/z 375.3 (M+Na).

reactant | 4-[(2-bromo-2,2-difluoroacetyl)-(2-iodophenyl)amino]-piperidine-1-carboxylic acid tert-butyl ester | 2.98 mmol, 1.670 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C1=C(C=CC=C1)I)C(C(F)(F)Br)=O | C18H22BrF2IN2O3
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
catalyst | copper | 7.55 mmol, 0.480 g | [Cu] | Cu
product | 4-(3,3-DIFLUORO-2-OXO-2,3-DIHYDROINDOL-1-YL)-PIPERIDINE-1-CARBOXYLIC ACID TERT-BUTYL ESTER | 93% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C(C2=CC=CC=C12)(F)F)=O | C18H22F2N2O3
